US04125732
Methyl(p-tert.-butylphenoxy){p-[3-(p-chlorphenoxy)propoxy]phenyl}acetate
As described in Example 30, a mixture of 3.13 g of p-tert.-butylphenol, 0.755 g of 60% sodium hydride-oil dispersion, 3.5 g of potassium iodide, one ml of hexamethylphosphoramide and 7.9 g of methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate in 70 ml of tetrahydrofuran is refluxed for 18 hours and worked-up to give 9.0 g of an oil. The oil is chromatographed over silica gel with dichloromethane as eluent to give 7.4 g of oil which is crystallized from petroleum ether-ether to give 5.7 g of white crystals, mp 98°-101° C.

reactant | p-tert.-butylphenol | 3.13 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | sodium hydride | 0.755 g | [H-].[Na+]
reactant | potassium iodide | 3.5 g | [I-].[K+]
reactant | methyl bromo{p-[3-(p-chlorophenoxy)propoxy]phenyl}acetate | 7.9 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl | C18H18BrClO4
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | one ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Methyl(p-tert.-butylphenoxy){p-[3-(p-chlorphenoxy)propoxy]phenyl}acetate | 9.0 g | COC(C(C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)Cl)OC1=CC=C(C=C1)C(C)(C)C)=O | C28H31ClO5
